### PR TITLE
[Merged by Bors] - feat(RingTheory/Frobenius): Frobenius elements lie in the decomposition group

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves that Frobenius elements lie in the decomposition group.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Frobenius.lean [hunk 1]
```diff
@@ -190,6 +190,11 @@ open scoped Pointwise
 variable {G : Type*} [Group G] [MulSemiringAction G S] [SMulCommClass G R S]
 variable {Q : Ideal S} {σ σ' : G}
 
+theorem mem_stabilizer [Q.IsPrime] (h : IsArithFrobAt R σ Q) : σ ∈ MulAction.stabilizer G Q := by
+  rw [MulAction.mem_stabilizer_iff]
+  conv_lhs => rw [← h.comap_eq]
+  exact Q.map_comap_eq_self_of_equiv (MulSemiringAction.toRingEquiv G S σ)
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Frobenius.lean:197]: Seems like this `exact` is secretely blasting through a defeq for the `SMul` of `G` on ideals induced by the action on `S`. Is this normal? I couldn’t find a lemma that unfolds that to an `Ideal.map` (so the exact becomes "syntactic"). Am I missing something?

**Review by robin-carlier — COMMENTED** [review]
LGTM modulo my very minor nitpick on the `exact` here.

File: Mathlib/RingTheory/Frobenius.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/RingTheory/Frobenius.lean:197]: Sure, I've added the `rw` (it's `Ideal.pointwise_smul_def`).

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
